US04199587
3,7,11,15,19,23,27,31,35,39-Decamethyl-2,6,10,14,18,22,26,30,34,38-tetracontadecaenyl acrylate
8.0 Grams of decaprenol were dissolved in 50 ml of pyridine. The solution was added with 15% solution of 2.1 g of acrylic acid chloride in pyridine at room temperature over 30 minutes. After completion of the addition, the mixture was stirred at room temperature for two hours to complete the rection. The reaction product was diluted with n-hexane, washed with water and concentrated. The concentate was purified by chromatography with 80 g of silica gel in n-hexane/benzene solvent mixture as elution solvent to obtain a white solid (m.p. 32.0°-32.8° C.). Yield 5.8 g.

reactant | decaprenol | CC(=CCC/C(=C/CC/C(=C\CC/C(=C\CC/C(=C\CC/C(=C\CC/C(=C\CC/C(=C\CC/C(=C\CC/C(=C\CO)/C)/C)/C)/C)/C)/C)/C)/C)/C)C | C50H82O
reactant | acrylic acid chloride | 2.1 g | C(C=C)(=O)Cl | C3H3ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | n-hexane | CCCCCC | C6H14
product | 3,7,11,15,19,23,27,31,35,39-Decamethyl-2,6,10,14,18,22,26,30,34,38-tetracontadecaenyl acrylate | C(C=C)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C)C | C53H84O2
